.title kicad schematic

.include NPN.lib
.include NJF.lib
.include PNP.lib
q77 net-_c10-pad2_ net-_q77-pad2_ net-_c1-pad2_ Q2N2222
r45 net-_c1-pad2_ net-_q85-pad3_ 600
r41 net-_c1-pad2_ net-_q15-pad2_ 42k
q74 net-_j2-pad3_ net-_q74-pad2_ net-_q12-pad2_ Q2N2907A
q71 net-_j1-pad1_ net-_c6-pad1_ net-_q66-pad2_ Q2N2222
r22 net-_c1-pad2_ net-_q46-pad3_ 2k
q49 net-_c6-pad1_ net-_q44-pad3_ net-_c1-pad2_ Q2N2222
q46 net-_q44-pad3_ net-_c10-pad2_ net-_q46-pad3_ Q2N2222
c4 net-_c4-pad1_ net-_c1-pad2_ 10p
q38 net-_c4-pad1_ net-_c2-pad1_ net-_q38-pad3_ Q2N2222
q41 net-_c1-pad2_ net-_c4-pad1_ net-_c6-pad2_ Q2N2907A
r16 net-_c1-pad2_ net-_q38-pad3_ 5k
q64 net-_q63-pad3_ net-_c10-pad2_ net-_q64-pad3_ Q2N2222
r38 net-_c1-pad2_ net-_q68-pad2_ 30k
c12 net-_c12-pad1_ net-_c1-pad2_ 10p
q53 net-_c10-pad1_ net-_c10-pad2_ net-_q53-pad3_ Q2N2222
r28 net-_c1-pad2_ net-_q53-pad3_ 1.3k
r34 net-_c1-pad2_ net-_q64-pad3_ 2k
q68 net-_c10-pad1_ net-_q68-pad2_ net-_c1-pad2_ Q2N2222
j2 net-_j1-pad1_ net-_c1-pad2_ net-_j2-pad3_ J2N3819
r42 net-_q15-pad2_ net-_q78-pad3_ 14k
q86 net-_q74-pad2_ net-_q12-pad2_ net-_q86-pad3_ Q2N2907A
q85 net-_q77-pad2_ net-_c10-pad2_ net-_q85-pad3_ Q2N2222
q80 net-_j2-pad3_ net-_q78-pad3_ net-_c10-pad2_ Q2N2222
q84 net-_q74-pad2_ net-_q78-pad3_ net-_q77-pad2_ Q2N2222
q78 net-_j1-pad1_ net-_j2-pad3_ net-_q78-pad3_ Q2N2222
q72 net-_q66-pad3_ net-_q63-pad3_ net-_q68-pad2_ Q2N2222
q63 net-_j1-pad1_ net-_c10-pad1_ net-_q63-pad3_ Q2N2222
* u1 net-_q65-pad3_ net-_r1-pad1_ net-_r3-pad1_ net-_c1-pad2_ net-_r4-pad1_ net-_r2-pad1_ net-_q66-pad3_ net-_j1-pad1_ port
c10 net-_c10-pad1_ net-_c10-pad2_ 4p
r30 net-_c12-pad1_ net-_c10-pad1_ 2k
q82 net-_q75-pad2_ net-_c9-pad2_ net-_q82-pad3_ Q2N2222
q83 net-_q73-pad2_ net-_q11-pad2_ net-_q83-pad3_ Q2N2907A
r39 net-_c1-pad2_ net-_q13-pad2_ 42k
q81 net-_q73-pad2_ net-_q76-pad3_ net-_q75-pad2_ Q2N2222
r43 net-_c1-pad2_ net-_q82-pad3_ 600
r46 net-_q86-pad3_ net-_j1-pad1_ 800
q59 net-_q55-pad2_ net-_c5-pad1_ net-_q59-pad3_ Q2N2222
q70 net-_q65-pad3_ net-_q61-pad3_ net-_q67-pad2_ Q2N2222
q57 net-_q55-pad2_ net-_q55-pad2_ net-_q52-pad3_ Q2N2907A
q55 net-_c5-pad1_ net-_q55-pad2_ net-_q52-pad3_ Q2N2907A
c9 net-_c9-pad1_ net-_c9-pad2_ 4p
q75 net-_c9-pad2_ net-_q75-pad2_ net-_c1-pad2_ Q2N2222
q69 net-_j1-pad1_ net-_c5-pad1_ net-_q65-pad2_ Q2N2222
r35 net-_q65-pad3_ net-_q65-pad2_ 18
q65 net-_c5-pad1_ net-_q65-pad2_ net-_q65-pad3_ Q2N2222
r31 net-_q65-pad3_ net-_q59-pad3_ 2.4k
r40 net-_q13-pad2_ net-_q76-pad3_ 14k
q79 net-_j1-pad3_ net-_q76-pad3_ net-_c9-pad2_ Q2N2222
r23 net-_q48-pad3_ net-_j1-pad1_ 100
r25 net-_j1-pad1_ net-_q52-pad3_ 1k
q40 net-_c5-pad2_ net-_q11-pad2_ net-_q40-pad3_ Q2N2907A
r17 net-_q40-pad3_ net-_j1-pad1_ 1.6k
c5 net-_c5-pad1_ net-_c5-pad2_ 2.5p
q43 net-_j1-pad1_ net-_c5-pad2_ net-_q43-pad3_ Q2N2222
c7 net-_c5-pad1_ net-_c7-pad2_ 21p
r19 net-_c3-pad1_ net-_c7-pad2_ 3.9k
q48 net-_c5-pad1_ net-_q11-pad2_ net-_q48-pad3_ Q2N2907A
q52 net-_c9-pad1_ net-_q11-pad2_ net-_q52-pad3_ Q2N2907A
q76 net-_j1-pad1_ net-_j1-pad3_ net-_q76-pad3_ Q2N2222
q73 net-_j1-pad3_ net-_q73-pad2_ net-_q11-pad2_ Q2N2907A
j1 net-_j1-pad1_ net-_c1-pad2_ net-_j1-pad3_ J2N3819
r44 net-_q83-pad3_ net-_j1-pad1_ 800
r36 net-_c1-pad2_ net-_q67-pad2_ 30k
r32 net-_c1-pad2_ net-_q62-pad3_ 2k
q67 net-_c9-pad1_ net-_q67-pad2_ net-_c1-pad2_ Q2N2222
r26 net-_c1-pad2_ net-_q51-pad3_ 1.3k
c11 net-_c11-pad1_ net-_c1-pad2_ 10p
q56 net-_c6-pad1_ net-_q56-pad2_ net-_q54-pad3_ Q2N2907A
r27 net-_j1-pad1_ net-_q54-pad3_ 1k
q62 net-_q61-pad3_ net-_c9-pad2_ net-_q62-pad3_ Q2N2222
q61 net-_j1-pad1_ net-_c9-pad1_ net-_q61-pad3_ Q2N2222
r29 net-_c11-pad1_ net-_c9-pad1_ 2k
q51 net-_c9-pad1_ net-_c9-pad2_ net-_q51-pad3_ Q2N2222
r18 net-_q42-pad3_ net-_j1-pad1_ 1.6k
r24 net-_q50-pad3_ net-_j1-pad1_ 100
q44 net-_j1-pad1_ net-_c6-pad2_ net-_q44-pad3_ Q2N2222
q50 net-_c6-pad1_ net-_q12-pad2_ net-_q50-pad3_ Q2N2907A
q36 net-_c4-pad1_ net-_q12-pad1_ net-_q28-pad3_ Q2N2907A
q42 net-_c6-pad2_ net-_q12-pad2_ net-_q42-pad3_ Q2N2907A
c8 net-_c6-pad1_ net-_c8-pad2_ 21p
r20 net-_c4-pad1_ net-_c8-pad2_ 3.9k
c6 net-_c6-pad1_ net-_c6-pad2_ 2.5p
q66 net-_c6-pad1_ net-_q66-pad2_ net-_q66-pad3_ Q2N2222
r37 net-_q66-pad3_ net-_q66-pad2_ 18
q58 net-_q56-pad2_ net-_q56-pad2_ net-_q54-pad3_ Q2N2907A
q54 net-_c10-pad1_ net-_q12-pad2_ net-_q54-pad3_ Q2N2907A
q60 net-_q56-pad2_ net-_c6-pad1_ net-_q60-pad3_ Q2N2222
r33 net-_q66-pad3_ net-_q60-pad3_ 2.4k
q39 net-_c1-pad2_ net-_c3-pad1_ net-_c5-pad2_ Q2N2907A
q45 net-_q43-pad3_ net-_c9-pad2_ net-_q45-pad3_ Q2N2222
r21 net-_c1-pad2_ net-_q45-pad3_ 2k
q47 net-_c5-pad1_ net-_q43-pad3_ net-_c1-pad2_ Q2N2222
r15 net-_c1-pad2_ net-_q37-pad3_ 5k
r13 net-_c1-pad2_ net-_q30-pad3_ 5k
c3 net-_c3-pad1_ net-_c1-pad2_ 10p
q37 net-_c3-pad1_ net-_c1-pad1_ net-_q37-pad3_ Q2N2222
q2 net-_c1-pad2_ net-_q2-pad2_ net-_q2-pad3_ Q2N2907A
r2 net-_r2-pad1_ net-_q2-pad2_ 400
r4 net-_r4-pad1_ net-_q10-pad2_ 400
q5 net-_q2-pad3_ net-_q12-pad2_ net-_q5-pad3_ Q2N2907A
q28 net-_c2-pad1_ net-_q2-pad3_ net-_q28-pad3_ Q2N2907A
q34 net-_q28-pad3_ net-_q12-pad2_ net-_q34-pad3_ Q2N2907A
q20 net-_q19-pad3_ net-_q12-pad2_ net-_q20-pad3_ Q2N2907A
r12 net-_q34-pad3_ net-_j1-pad1_ 1.6k
r10 net-_q20-pad3_ net-_j1-pad1_ 1.6k
r8 net-_q12-pad3_ net-_j1-pad1_ 9k
r6 net-_q5-pad3_ net-_j1-pad1_ 9k
c2 net-_c2-pad1_ net-_c1-pad2_ 75p
q19 net-_q19-pad1_ net-_q19-pad1_ net-_q19-pad3_ Q2N2907A
q10 net-_c1-pad2_ net-_q10-pad2_ net-_q10-pad3_ Q2N2907A
q15 net-_j1-pad1_ net-_q15-pad2_ net-_q15-pad3_ Q2N2222
q8 net-_c1-pad2_ net-_q10-pad2_ net-_q12-pad1_ Q2N2907A
q12 net-_q12-pad1_ net-_q12-pad2_ net-_q12-pad3_ Q2N2907A
q6 net-_c1-pad2_ net-_q2-pad2_ net-_q15-pad3_ Q2N2907A
q16 net-_c6-pad1_ net-_q15-pad2_ net-_q10-pad3_ Q2N2222
q22 net-_c2-pad1_ net-_q19-pad1_ net-_q19-pad3_ Q2N2907A
q32 net-_j1-pad1_ net-_c4-pad1_ net-_c2-pad1_ Q2N2222
q26 net-_c1-pad2_ net-_c2-pad1_ net-_q25-pad3_ Q2N2907A
q33 net-_c2-pad1_ net-_c2-pad1_ net-_q33-pad3_ Q2N2222
r14 net-_c1-pad2_ net-_q33-pad3_ 5k
q25 net-_q19-pad3_ net-_q19-pad1_ net-_q25-pad3_ Q2N2222
c1 net-_c1-pad1_ net-_c1-pad2_ 75p
q24 net-_c1-pad2_ net-_c1-pad1_ net-_q23-pad3_ Q2N2907A
q30 net-_c1-pad1_ net-_c1-pad1_ net-_q30-pad3_ Q2N2222
q23 net-_q17-pad3_ net-_q17-pad1_ net-_q23-pad3_ Q2N2222
q21 net-_c1-pad1_ net-_q17-pad1_ net-_q17-pad3_ Q2N2907A
q13 net-_j1-pad1_ net-_q13-pad2_ net-_q13-pad3_ Q2N2222
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2907A
q18 net-_q17-pad3_ net-_q11-pad2_ net-_q18-pad3_ Q2N2907A
q9 net-_c1-pad2_ net-_q7-pad2_ net-_q14-pad3_ Q2N2907A
q14 net-_c5-pad1_ net-_q13-pad2_ net-_q14-pad3_ Q2N2222
q7 net-_c1-pad2_ net-_q7-pad2_ net-_q11-pad1_ Q2N2907A
q29 net-_j1-pad1_ net-_c3-pad1_ net-_c1-pad1_ Q2N2222
q17 net-_q17-pad1_ net-_q17-pad1_ net-_q17-pad3_ Q2N2907A
q27 net-_c1-pad1_ net-_q1-pad3_ net-_q27-pad3_ Q2N2907A
q35 net-_c3-pad1_ net-_q11-pad1_ net-_q27-pad3_ Q2N2907A
r3 net-_r3-pad1_ net-_q7-pad2_ 400
r1 net-_r1-pad1_ net-_q1-pad2_ 400
q4 net-_c1-pad2_ net-_q1-pad2_ net-_q13-pad3_ Q2N2907A
q1 net-_c1-pad2_ net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
r7 net-_q11-pad3_ net-_j1-pad1_ 9k
q3 net-_q1-pad3_ net-_q11-pad2_ net-_q3-pad3_ Q2N2907A
r11 net-_q31-pad3_ net-_j1-pad1_ 1.6k
q31 net-_q27-pad3_ net-_q11-pad2_ net-_q31-pad3_ Q2N2907A
r9 net-_q18-pad3_ net-_j1-pad1_ 1.6k
r5 net-_q3-pad3_ net-_j1-pad1_ 9k
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
